US04060528
A mixture of 5.2 parts of p-(2-thenoyl)hydratropic acid. 40 parts of absolute denatured ethanol and 0.5 parts of hydrochloric acid solution is stirred and refluxed for 24 hours. The reaction mixture is evaporated and the residue is taken up in ether. The ethereal solution is shaken with alkaline water, separated and shaken twice with water. The ether phase is dried, filtered and evaporated, yielding ethyl p-(2-thenoyl)hydratropate, also named ethyl p-(2-thenoyl)-α-methyl-phenylacetate, as a residue.

reactant | p-(2-thenoyl)hydratropic acid | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)O)C)C=C1 | C14H12O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | ethyl p-(2-thenoyl)-α-methyl-phenylacetate | C1(=CC=CS1)C(=O)C1=CC=C(C=C1)C(C(=O)OCC)C | C16H16O3S
